US09403804B2
c) 4-(4-Amino-3-bromo-phenyl)-cyclohexanone
The title compound was prepared from 4-(4-amino-phenyl)-cyclohexanone (as prepared in the previous step) by bromination with NBS according to the procedure in Example 4, step (b), replacing CH3CN with CH2Cl2. Mass spectrum (ESI, m/z): Calcd. for C12H14NOBr, 268.0/270.0 (M+H). found 268.3/270.2.

reactant | 4-(4-amino-phenyl)-cyclohexanone | NC1=CC=C(C=C1)C1CCC(CC1)=O | C12H15NO
reactant | NBS | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-(4-Amino-3-bromo-phenyl)-cyclohexanone | NC1=C(C=C(C=C1)C1CCC(CC1)=O)Br | C12H14BrNO
